US05523152
5-(Acryloyloxyethyl)-4-methylthiazole (MTA)
A one liter, three necked flask was equipped with overhead stirrer, nitrogen atmosphere and an addition funnel. The flask was charged with 100 g of 5-(2-hydroxyethyl)-4-methylthiazole (0.70 mol.), 71 g of triethylamine (0.70 mol.), 500 g of chloroform and 3 g of phenothiazine. Next, 63 g of acryloyl chloride (0.70 mol.) was slowly added to the reaction over 1.5 hour via the addition funnel. The reaction was stirred for 2 hours at room temperature. The reaction mixture was extracted with NaCl(aq.), NH4OH(10%), NaCl(aq.) and dried over MgSO4. The chloroform was evaporated with a rotoevaporator to yield 113 g (82%) of a dark brown liquid. The product was confirmed by IR and 13C NMR.

reactant | 5-(2-hydroxyethyl)-4-methylthiazole | 0.70 mol, 100 g | OCCC1=C(N=CS1)C | C6H9NOS
reactant | triethylamine | 0.70 mol, 71 g | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 0.70 mol, 63 g | C(C=C)(=O)Cl | C3H3ClO
catalyst | phenothiazine | 3 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
solvent | chloroform | 500 g | C(Cl)(Cl)Cl | CHCl3
product | 5-(Acryloyloxyethyl)-4-methylthiazole | 113 g, 82% | C(C=C)(=O)OCCC1=C(N=CS1)C | C9H11NO2S
